US08252793B2
3-(2-methylcarbamoyl-pyrimidin 5-yl)acrylic acid benzyl ester was dissolved in ethanol (20 mL) in presence of 15 mg of Pd/C, 10% and HClc (2 mL). The mixture was stirred under hydrogen balloon overnight to give 3-(2-methylcarbamoyl-pyridine-5-yl)-propionic acid which was used without further purification.

reactant | 3-(2-methylcarbamoyl-pyrimidin 5-yl)acrylic acid benzyl ester | C(C1=CC=CC=C1)OC(C=CC=1C=NC(=NC1)C(NC)=O)=O | C16H15N3O3
reactant | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd/C | 15 mg | [Pd] | Pd
product | 3-(2-methylcarbamoyl-pyridine-5-yl)-propionic acid | CNC(=O)C1=NC=C(C=C1)CCC(=O)O | C10H12N2O3
